US04465844
Benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine benzyl ester
In 100 ml of tetrahydrofuran were dissolved 4.6 g of benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine and 2.5 ml of benzyl alcohol, and under cooling at 0°-5° C. 2.4 ml of pyridine and 3.6 g of dicyclohexylcarbodiimide were added to the solution in that order. The mixture was stirred at the same temperature as above for 4 hours and then at room temperature for 18 hours. The precipitated dicyclohexylurea were filtered off and the filtrate was concentrated under reduced pressure. The residue was poured into a mixture of 300 ml of 2 N hydrochloric acid and 300 ml of ethyl acetate. The ethyl acetate layer was separated, washed with 2 N hydrochloric acid, dried over sodium sulfate and concentrated under reduced pressure. The concentrate was chromatographed on a silica gel column and eluted with toluene-ethyl acetate (3:1). The eluate was concentrated under reduced pressure and the residue was dissolved in a small amount of ethyl ether. To this solution was added petroleum ether to give crystals. Yield 4.8 g.

reactant | benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine | 4.6 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1C(NC(C1)=O)=O | C14H14N2O6
reactant | benzyl alcohol | 2.5 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
reactant | dicyclohexylcarbodiimide | 3.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Benzyloxycarbonyl-2-(2,5-dioxopyrrolidin-3-yl)glycine benzyl ester | C(C1=CC=CC=C1)OC(C(NC(=O)OCC1=CC=CC=C1)C1C(NC(C1)=O)=O)=O | C21H20N2O6
